US07847101B2
A mixture of 2-cyanomethylbenzothiazole-5-sulfonic acid methylamide (120 mg, 0.45 mmol) and trimethyl orthoracetate (270 mg, 2.2 mmol) in acetic anhydride (2 mL) was heated at 100° C. for 5 hrs. The reaction mixture was cooled to room temperature. The resulting precipitate was isolated by filtration to yield 120 mg (83%) of 2-(1-cyano-2-methoxypropenyl)benzothiazole-5-sulfonic acid methylamide. The product was used in the subsequent step without further purification. MS (m/z, ES+): 324 (M+1, 100%).

reactant | 2-cyanomethylbenzothiazole-5-sulfonic acid methylamide | 0.45 mmol, 120 mg | CNS(=O)(=O)C=1C=CC2=C(N=C(S2)CC#N)C1 | C10H9N3O2S2
reactant | acetic anhydride | 2 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(1-cyano-2-methoxypropenyl)benzothiazole-5-sulfonic acid methylamide | 120 mg, 83% | CNS(=O)(=O)C=1C=CC2=C(N=C(S2)C(=C(C)OC)C#N)C1 | C13H13N3O3S2
